US03992450
C. N-Chloro-2-(2',6'-dichlorophenyl)-4,5-diphenylimidazole
A mixture of 14.60 g. (0.04 mole) of the 2-(2',6'-dichlorophenyl)-4,5-diphenylimidazole, 5.34 g. (0.04 mole) of N-chlorosuccinimide, and 400 ml of carbon tetrachloride was heated at reflux temperature for 2 hours. The solution was cooled, filtered, and thefiltrate concentrated under vacuum. The resulting solid-oil mixture was triturated with 1-chlorobutane to give a residue of 16.68 g., m.p. 120°-140° C. (broad). The compound proved difficult to recrystallize from common solvents and only acetonitrile and nitromethane afforded reasonable recovery of crystals; from the latter solvents the crystals formed as large chunky aggregates. The best fraction 0.7664 g. has m.p. 125°-127° C.; an IR spectrum showed no NH absorption and a very strong 1620 cm-1 band.

reactant | 2-(2',6'-dichlorophenyl)-4,5-diphenylimidazole | 0.04 mole | ClC1=C(C(=CC=C1)Cl)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H14Cl2N2
reactant | N-chlorosuccinimide | 0.04 mole | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 400 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-Chloro-2-(2',6'-dichlorophenyl)-4,5-diphenylimidazole | ClN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1Cl)Cl | C21H13Cl3N2
